US07504404B2
5-{5-[8-Methyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-yl]-[1,2,4]oxadiazol-3-yl}-thiophene-2-sulfonic acid amide
The title compound was prepared from 8-methyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid (example C.34) (160 mg, 0.5 mmol) and N-hydroxy-5-sulfamoyl-thiophene-2-carboxamidine (example B.2) (166 mg, 0.75 mmol) according to general procedure II. Obtained after purification by column chromatography (dichloromethane/MeOH/NH4OH) and crystallization (diethyl ether/MeOH) as a pink solid (147 mg, 58%). MS (EI) 505.1 [(M)+]; mp 285° C.

reactant | 8-methyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid | 0.5 mmol, 160 mg | CC=1C=2N(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(=CN2)C(=O)O | C16H11F3N2O2
reactant | N-hydroxy-5-sulfamoyl-thiophene-2-carboxamidine | 0.75 mmol, 166 mg | ONC(=N)C=1SC(=CC1)S(N)(=O)=O | C5H7N3O3S2
product | 5-{5-[8-Methyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-yl]-[1,2,4]oxadiazol-3-yl}-thiophene-2-sulfonic acid amide | CC=1C=2N(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(=CN2)C2=NC(=NO2)C2=CC=C(S2)S(=O)(=O)N | C21H14F3N5O3S2
